US07514419B2
To a solution of 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzaldehyde (0.18 g, 0.60 mmol, Example 28, step a) in dichloromethane (6.0 mL) at 0° C. was added m-chloroperoxybenzoic acid (0.22 g, 0.905 mmol). The reaction mixture was stirred at room temperature for 16 h. The solvent was removed under reduced pressure and the residue was diluted with ethyl acetate. The organic solution was washed with saturated sodium bicarbonate (2×10 mL) and water. The solvent was removed under reduced pressure and the residue was dissolved in methanol (5 mL). To the solution was added 1 N NaOH (1.81 mL, 1.81 mmol) and the reaction mixture was stirred at room temperature for 4 h. The reaction mixture was diluted with ethyl acetate, acidified with 2 N HCl and washed with brine. The solvent was evaporated and the residue was purified by preparatory TLC eluting with acetone-hexanes (1:4) to afford 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)phenol as an oil (0.08 g, 47%): 1H NMR (200 MHz, DMSO-d6): δ 9.17 (s, 1 H), 6.82 (m, 1 H), 6.70 (m, 1 H), 6.51 (s, 2 H), 6.32 (m, 1 H), 3.71 (s, 3 H), 3.18 (m, 1 H), 1.95 (s, 6 H), 1.12 (d, J=6.0 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-acetone (4:1); Rf=0.44.

reactant | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzaldehyde | CC=1C=C(C=O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C19H22O3
reactant | m-chloroperoxybenzoic acid | 0.905 mmol, 0.22 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | NaOH | 1.81 mmol, 1 N, 1.81 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | dichloromethane | 6.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)phenol | 0.08 g, 47% | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)O | C18H22O3
